US09422299B2
Method H: Acylation NMM/DCM
To a solution of crude G or G′ (1 eq.) in anhydrous DCM were added at 0° C. H (1.3 eq.), followed by N-methylmorpholine (2.2 eq.) dropwise over 15 sec. The reaction mixture was stirred at rt for 10 minutes and, the milky suspension was poured into 1 M HCl. The aqueous phase was extracted with DCM. The organic phases were combined, washed with 1 M NaOH, brine, dried over MgSO4 and evaporated to dryness. The crude compound was purified by silica gel chromatography to afford the desired product (R)-I.

reactant | N-methylmorpholine | 2.2 eq. | CN1CCOCC1 | C5H11NO
reactant | HCl | 1 M | Cl | ClH
reactant | DCM | C(Cl)Cl | CH2Cl2
product | NMM DCM | CN1CCOCC1.C(Cl)Cl | InChI=1S/C5H11NO.CH2Cl2/c1-6-2-4-7-5-3-6;2-1-3/h2-5H2,1H3;1H2
